US04806535
Treatment of 3-(4-fluorobenzoyl)pyridine-2-carboxylic acid with diazomethane, followed by silica gel chromotography (using hexanes-EtOAc (3:2) as the eluent), gives pure 3-(4-fluorobenzoyl)-2-carbomethoxypyridine.

reactant | 3-(4-fluorobenzoyl)pyridine-2-carboxylic acid | FC1=CC=C(C(=O)C=2C(=NC=CC2)C(=O)O)C=C1 | C13H8FNO3
reactant | diazomethane | [N+](=[N-])=C | CH2N2
product | 3-(4-fluorobenzoyl)-2-carbomethoxypyridine | FC1=CC=C(C(=O)C=2C(=NC=CC2)C(=O)OC)C=C1 | C14H10FNO3
